US08748415B2
Step 2. Preparation of 4-((((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-9-(4-(tert-butoxycarbonyl)phenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-3a-yl)methyl)(2-(dimethylamino)ethyl)amino)-4-oxobutanoic acid
To a solution of tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((N-(2-(dimethylamino)ethyl)-4-methoxy-4-oxobutanamido)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate (53 mg, 0.068 mmol) in 1,4-dioxane (1 ml) was added NaOH (0.338 ml, 0.338 mmol). The mixture was heated to 75° C. for 3 h. The mixture was cooled to rt and was quenched with 1N HCl (3 ml) and extracted with dichloromethane (3×7 ml). The combined organic layers were dried with Na2SO4, were filtered, and concentrated under reduced pressure. The crude product was used in the next step with no additional purification. LCMS: m/e 771.6 (M+H)+, 2.70 min (method 6).

reactant | tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((N-(2-(dimethylamino)ethyl)-4-methoxy-4-oxobutanamido)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | 0.068 mmol, 53 mg | CN(CCN(C(CCC(=O)OC)=O)C[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)OC(C)(C)C)C=C1)C)[C@@H](CC2)C(=C)C)C | C50H76N2O5
reactant | NaOH | 0.338 mmol, 0.338 ml | [OH-].[Na+]
solvent | 1,4-dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | 4-((((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-9-(4-(tert-butoxycarbonyl)phenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-3a-yl)methyl)(2-(dimethylamino)ethyl)amino)-4-oxobutanoic acid | C(C)(C)(C)OC(=O)C1=CC=C(C=C1)C=1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5([C@@H]([C@H]4CC[C@@H]3[C@]2(CC1)C)[C@@H](CC5)C(=C)C)CN(C(CCC(=O)O)=O)CCN(C)C)C)C)(C)C | C49H74N2O5
